US06166208
Step A: Preparation of Methyl 2-amino-5-iodobenzoate hydrochloride
To a solution of 25 g (0.165 mol) of methyl 2-aminobenzoate in 3 L of glacial acetic acid was added a second solution of 26.82 g (0.165 mol)iodine monochloride in 250 mL of glacial acetic acid over 20-30 min. The resulting mixture was stirred at room temperature for 24 h. The ensuing precipitate was filtered, washed with glacial acetic acid followed by diethyl ether, and dried to provide 43.2 g of the title compound, which was generally used without further purification in subsequent steps, m.p. 188-192° C.; 1H NMR (300 MHz, Me2SO--d6): δ3.79 (s,3H); 6.67 (d,1H); 7.50 (dd,1H); 7.93 (d,1H). Anal. Calcd. for C8H9NO2ICl: C, 30.65; H, 2.89; N, 4.47; O, 10.21; Cl, 11.31; I, 40.48. Found: C, 31.19; H, 2.85; N, 4.48; 0, 10.27; Cl, 11.72; I, 40.15.

reactant | methyl 2-aminobenzoate | 0.165 mol, 25 g | NC1=C(C(=O)OC)C=CC=C1 | C8H9NO2
reactant | iodine monochloride | 0.165 mol, 26.82 g | ICl | ClI
solvent | acetic acid | 3 L | C(C)(=O)O | C2H4O2
solvent | acetic acid | 250 mL | C(C)(=O)O | C2H4O2
product | Methyl 2-amino-5-iodobenzoate hydrochloride | 43.2 g | Cl.NC1=C(C(=O)OC)C=C(C=C1)I | InChI=1S/C8H8INO2.ClH/c1-12-8(11)6-4-5(9)2-3-7(6)10;/h2-4H,10H2,1H3;1H
